2184-07-29 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - nipride titrated up with improved Ficks (2.7/1.6/2147 -> 5/2.9/1116)
   - responded well to lasix from cath lab (-1.8L @ 11pm), CVP 26->15
   - did not re-bolus lasix given good CVP improvement and cre bump
   - holding statin given LFTs
   - per [**Doctor First Name 91**], plan for CABG +/- valve repair in 4-5d
   - TEE today
   - Carotid study, chest CT today/tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Nitroprusside - 0.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2184-7-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-29**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 98 (88 - 110) bpm
   BP: 115/60(89) {106/56(80) - 142/76(111)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 15 (12 - 23)mmHg
   PAP: (52 mmHg) / (26 mmHg)
   CO/CI (Fick): (6.9 L/min) / (4 L/min/m2)
   Mixed Venous O2% Sat: 47 - 74
   Total In:
                                                                    657 mL
                                                                    361 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    537 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    650 mL
   Urine:
                                                                  2,425 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,768 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/32/77/25/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Systolic murmur not
   auscultated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : anteriorly on R side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   218 K/uL
   11.0 g/dL
   119 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   33.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2184-7-28**]  02:49 PM
                             [**2184-7-28**]  03:00 PM
                             [**2184-7-28**]  08:01 PM
                             [**2184-7-29**]  03:59 AM
   WBC
   11.6
   10.9
   Hct
   36.2
   33.5
   Plt
   256
   218
   Cr
   1.2
   1.1
   TropT
   4.12
   3.86
   TCO2
   24
   Glucose
   117
   117
   119
   Other labs: PT / PTT / INR:15.8/67.7/1.4, CK / CKMB /
   Troponin-T:659/38/3.86, ALT / AST:263/148, Alk Phos / T Bili:140/0.5,
   Amylase / Lipase:42/, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:702
   IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 65yo Italian-speaking male with HTN who presents several days
   out from likely STEMI now s/p cath showing 3VD with chronic RCA
   occlusion and TTE showing LV dysfunction, 4+MR, 3+TR and significant
   AS, s/p IABP placement and planning for probable CABG +/- AVR/MVR/TVR.
   CORONARIES: Severe LM/3VD s/p probable inferior STEMI, planning for
   likely CABG. IABP placed for increased coronary perfusion and afterload
   reduction; will likely leave IABP for several days to facilitate
   recovery of the myocardium.
   -ASA 325, heparin gtt, atorvastatin 80
   -no plavix given likely surgery
   -hold BB given hemodynamics
   -per surgery, will obtain CT chest w/o contrast to eval aortic ca+,
   carotid U/S, and U/A/Ucx
   -f/u with CT [**Doctor First Name 91**] re plan for CABG
   PUMP: 4+MR, 3+TR, mild/mod AS. He is tachycardic with SBPs in 100s but
   with low cardiac index. Cardiac index could be increased by either
   inotropy or afterload reduction. Given his very high SVR and severe MR,
   afterload reduction with IABP and nipride drip will likely be more
   effective, but will consider direct inotropy with dobutamine if cardiac
   index does not respond. He is also in heart failure with elevated
   filling pressures and will likely benefit from preload reduction with
   diuresis.
   -nipride drip, gently titrating to increase CI while keeping map>60,
   UOP and mentation.
   -gentle diuresis with lasix, monitoring CVP
   -follow I/Os, UOP and mentation
   -TEE today
   -f/u with CT [**Doctor First Name 91**] re likely MVR/AVR
   -follow hemodynamics with Swan
   RHYTHM: Sinus tachycardia
   -no bb for now given cardiogenic shock
   -monitor on tele
   Anemia: Hct drop 36 -> 32, likely related to hemolysis in setting of
   IABP. Continue to trend, and follow platelet count.
   - send hemolysis labs
   Transaminitis: Likely resolving shock liver in setting of cardiogenic
   shock given LFTs trending down this AM.
   -follow LFTs
   Renal failure: Acute vs Chronic. Last known cre from [**2181**] was 0.9.
   therefore, likely chronic. Cre stable from yesterday.
   - Continue to follow cre.
   HTN: SBPs in 100s since arrival to floor.
   -holding home antihypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2184-7-28**] 04:41 PM
   PA Catheter - [**2184-7-28**] 04:44 PM
   20 Gauge - [**2184-7-28**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-07-29 08:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - nipride titrated up with improved Ficks (2.7/1.6/2147 -> 5/2.9/1116)
   - responded well to lasix from cath lab (-1.8L @ 11pm), CVP 26->15
   - did not re-bolus lasix given good CVP improvement and cre bump
   - holding statin given LFTs
   - per [**Doctor First Name 91**], plan for CABG +/- valve repair in 4-5d
   - TEE today
   - Carotid study, chest CT today/tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Nitroprusside - 0.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2184-7-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-29**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 98 (88 - 110) bpm
   BP: 115/60(89) {106/56(80) - 142/76(111)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 15 (12 - 23)mmHg
   PAP: (52 mmHg) / (26 mmHg)
   CO/CI (Fick): (6.9 L/min) / (4 L/min/m2)
   Mixed Venous O2% Sat: 47 - 74
   Total In:
                                                                    657 mL
                                                                    361 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    537 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    650 mL
   Urine:
                                                                  2,425 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,768 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/32/77/25/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Systolic murmur not
   auscultated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : anteriorly on R side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   218 K/uL
   11.0 g/dL
   119 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   33.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2184-7-28**]  02:49 PM
                             [**2184-7-28**]  03:00 PM
                             [**2184-7-28**]  08:01 PM
                             [**2184-7-29**]  03:59 AM
   WBC
   11.6
   10.9
   Hct
   36.2
   33.5
   Plt
   256
   218
   Cr
   1.2
   1.1
   TropT
   4.12
   3.86
   TCO2
   24
   Glucose
   117
   117
   119
   Other labs: PT / PTT / INR:15.8/67.7/1.4, CK / CKMB /
   Troponin-T:659/38/3.86, ALT / AST:263/148, Alk Phos / T Bili:140/0.5,
   Amylase / Lipase:42/, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:702
   IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 65yo Italian-speaking male with HTN who presents several days
   out from likely STEMI now s/p cath showing 3VD with chronic RCA
   occlusion and TTE showing LV dysfunction, 4+MR, 3+TR and significant
   AS, s/p IABP placement and planning for probable CABG +/- AVR/MVR/TVR.
   CORONARIES: Severe LM/3VD s/p probable inferior STEMI, planning for
   likely CABG. IABP placed for increased coronary perfusion and afterload
   reduction; will likely leave IABP for several days to facilitate
   recovery of the myocardium.
   -ASA 325, heparin gtt, start atorvastatin once LFTs improved.
   -check methemoglobin after 2 days of nipride
   -no plavix given likely surgery
   -start low dose BB and observe response
   -per surgery, will obtain CT chest w/o contrast to eval aortic ca+,
   carotid U/S, and U/A/Ucx
   -f/u with CT [**Doctor First Name 91**] re plan for CABG
   PUMP: 4+MR, 3+TR, mild/mod AS. He is tachycardic with SBPs in 100s but
   with low cardiac index. Cardiac index could be increased by either
   inotropy or afterload reduction. Given his very high SVR and severe MR,
   afterload reduction with IABP and nipride drip will likely be more
   effective, but will consider direct inotropy with dobutamine if cardiac
   index does not respond. He is also in heart failure with elevated
   filling pressures and will likely benefit from preload reduction with
   diuresis.
   -nipride drip, gently titrating to increase CI while keeping map>60,
   UOP and mentation.
   -gentle diuresis with lasix, monitoring CVP
   -follow I/Os, UOP and mentation
   -TEE today
   -f/u with CT [**Doctor First Name 91**] re likely MVR/AVR
   -follow hemodynamics with Swan
   RHYTHM: Sinus tachycardia
   -very low dose BB
   -monitor on tele
   Anemia: Hct drop 36 -> 32, likely related to hemolysis in setting of
   IABP. Continue to trend, and follow platelet count.
   - send hemolysis labs
   Transaminitis: Likely resolving shock liver in setting of cardiogenic
   shock given LFTs trending down this AM.
   -follow LFTs
   Renal failure: Acute vs Chronic. Last known cre from [**2181**] was 0.9.
   therefore, likely chronic. Cre stable from yesterday.
   - Continue to follow cre.
   HTN: SBPs in 100s since arrival to floor.
   -holding home antihypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2184-7-28**] 04:41 PM
   PA Catheter - [**2184-7-28**] 04:44 PM
   20 Gauge - [**2184-7-28**] 04:46 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: H2 Blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Here with IABP pending surgery, likely Saturday or Monday.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7297**].
   I would add the following remarks:
   History
   Improved hemodynamics and good diuresis with Nipride, IABP and lasix.
   PA 55/26 adn C.I. 4.0 with SVR 850.
   CK peak 850
   Prelim TEE report shows severe MR, possibly amenable to repair and
   moderate AS.
   Physical Examination
   +JVD.
   No distress.
   Distal pulses OK with IABP.
   Medical Decision Making
   Discuss timing of cardiac surgery.
   Continue diuresis with Nipride and lasix.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2184-7-29**] 16:15 ------

2184-07-30 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2184-7-29**] 10:15 AM
 ULTRASOUND - At [**2184-7-29**] 11:00 AM carotids
   [**7-29**]
   - started on low dose Metoprolol 12.5 [**Hospital1 **], titrated up with additional
   12.5mg but CI, svO2 worsened- may need HR 90-100 to compensate.
   - Started nicotine patch
   - Family meeting with CT surgery, will operate Monday
   - had CT scan for pre-op, CXR showed IABP in place after transport
   - uptitrated nipride (when >72 hrs. check thiocyanide)
   - diuresed overnight (20 IV Lasix x 2) with good response
   - desat's to high 80's O/N- OSA vs. pulm edema
   - received 20mg Lasix IV at 7pm and midnight with good response.
   - CXR at 6am, consider Lasix gtt
   - Complaining of sleeping poorly and some residual chest discomfort.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Nitroprusside - 1.3 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2184-7-29**] 09:30 AM
   Fentanyl - [**2184-7-29**] 10:17 AM
   Midazolam (Versed) - [**2184-7-29**] 10:17 AM
   Furosemide (Lasix) - [**2184-7-30**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 98 (90 - 110) bpm
   BP: 120/70(96) {103/52(80) - 137/74(106)} mmHg
   RR: 26 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70.5 kg
   Height: 62 Inch
    CVP: 15 (14 - 24)mmHg
   PAP: (48 mmHg) / (28 mmHg)
   CO/CI (Fick): (4.3 L/min) / (2.5 L/min/m2)
   Mixed Venous O2% Sat: 56 - 61
   Total In:
                                                                  1,352 mL
                                                                    424 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,112 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    800 mL
   Urine:
                                                                  1,925 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -573 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.41/47/82.[**Numeric Identifier 253**]/25/3
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Systolic murmur not
   auscultated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Clear to auscultation
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Warm and well-perfused, IABP access site clean dry and
   intact.
   Neurologic: Alert and oriented x3, 5/5 strength in all extremitites.
   Labs / Radiology
   188 K/uL
   10.6 g/dL
   123 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   23 mg/dL
   100 mEq/L
   135 mEq/L
   32.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2184-7-28**]  02:49 PM
                             [**2184-7-28**]  03:00 PM
                             [**2184-7-28**]  08:01 PM
                             [**2184-7-29**]  03:59 AM
                             [**2184-7-29**]  09:06 AM
                             [**2184-7-30**]  04:00 AM
                             [**2184-7-30**]  04:09 AM
   WBC
   11.6
   10.9
   10.6
   Hct
   36.2
   33.5
   32.6
   32.2
   Plt
   [**Telephone/Fax (3) 7306**]
   Cr
   1.2
   1.1
   1.1
   TropT
   4.12
   3.86
   2.80
   TCO2
   24
   31
   Glucose
   117
   117
   119
   123
   Other labs: PT / PTT / INR:15.5/68.9/1.4, CK / CKMB /
   Troponin-T:227/9/2.80, ALT / AST:190/59, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:42/, Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:702
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 65 yo Italian-speaking male with HTN who presents several
   days out from likely STEMI now s/p cath showing 3VD with chronic RCA
   occlusion and TTE showing LV dysfunction, 4+MR, 3+TR and significant
   AS, s/p IABP placement and planning for probable CABG +/- AVR/MVR/TVR.
   CORONARIES: Severe LM/3VD s/p probable inferior STEMI, planning for
   likely CABG. IABP placed for increased coronary perfusion and afterload
   reduction; will likely leave IABP for several days to facilitate
   recovery of the myocardium.  Addition of metoprolol dropped HR to 80s,
   which caused drop in CI and drop in mixed venous sat.
   -ASA 325, heparin gtt, start atorvastatin 80 mg daily today.
   -morning methemaglobin 0, will recheck tomorrow AM.
   -no plavix given likely surgery
   - cont BB
   -CT [**Doctor First Name 91**] planning CABG/MVR/AVR for Monday morning.
   PUMP: 4+MR, 3+TR, mild/mod AS. He is tachycardic with SBPs in 100s but
   with low cardiac index. Cardiac index could be increased by either
   inotropy or afterload reduction.  Currently focusing on afterload
   reduction with diuresis, IABP and nipride gtt.
   -nipride drip increased to 1.3mcg/kg/min, gently titrating to increase
   CI while keeping map>60, UOP and mentation.
   -some crackles on lung exam, morning CXR grossly unchanged.  Diuresis
   appears to be helping. 40 mg [**Hospital1 **] Lasix, goal neg 2 L
   -follow I/Os, UOP and mentation
   -follow hemodynamics with Swan
   RHYTHM: Sinus tachycardia appears to be necessary for compensation
   -cont  BB with goal HR 90-100 (appeared to decompensate when HR in
   80
   -monitor on tele
   Anemia: Hct drop 36 -> 32, likely related to hemolysis in setting of
   IABP. Continue to trend, and follow platelet count.
   - send hemolysis labs
   Transaminitis: Likely resolving shock liver in setting of cardiogenic
   shock given LFTs continue to trend down.
   -follow LFTs
   Renal failure: Acute vs Chronic. Last known cre from [**2181**] was 0.9.
   therefore, likely chronic. Cre stable from yesterday.
   - Continue to follow cre.
   HTN: SBPs in 100s since arrival to floor.
   -holding home antihypertensives
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   IABP line - [**2184-7-28**] 04:41 PM
   PA Catheter - [**2184-7-28**] 04:44 PM
   20 Gauge - [**2184-7-28**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU over weekend, to CT [**Doctor First Name 91**] Monday
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 659**].
   I would add the following remarks:
   History
   Comfortable.   No chest pain or SOB.
   Still with evidence of CHF on CXR with PA 48/28, CI 2.5 on IABP and
   Nipride.
   TEE  results reviewed.
   Medical Decision Making
   Surgery tentatively Monday.
   Aggressive diuresis today.
   Continue IABP and Nipride.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2184-7-30**] 11:21 ------

2184-07-31 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-30**]
   - CXR shows moderately severe pulmonary edema has worsened since [**7-29**].
   - started on Lasix 40mg [**Hospital1 **] with goal -2L. Pt -800ccs at 4pm with urine
   output slowing, so extra 40mg IV x1 given.  Total 120mg IV Lasix.
   - LFTs normalized, started on atorvastatin 80mg daily
   - methemoglobin 0.
   - 3PM CBC and lytes normal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Nitroprusside - 1.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-7-30**] 08:00 AM
   Furosemide (Lasix) - [**2184-7-30**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-31**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 88 (87 - 100) bpm
   BP: 98/60(76) {92/54(73) - 122/76(102)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70.5 kg
   Height: 62 Inch
    CVP: 12 (8 - 22)mmHg
   PAP: (43 mmHg) / (23 mmHg)
   CO/CI (Fick): (4.7 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 59 - 63
   Total In:
                                                                  2,660 mL
                                                                    408 mL
   PO:
                                                                  1,020 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,640 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                    450 mL
   Urine:
                                                                  5,000 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,340 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), III/VI systolic murmur
   loudest at apex.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Bilateral crackles at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Warm and well-perfused, IABP access site clean dry and
   intact.
   Neurologic: Alert and oriented x3.
   Labs / Radiology
   198 K/uL
   10.7 g/dL
   119 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.8 mEq/L
   22 mg/dL
   97 mEq/L
   136 mEq/L
   32.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2184-7-28**]  02:49 PM
                             [**2184-7-28**]  03:00 PM
                             [**2184-7-28**]  08:01 PM
                             [**2184-7-29**]  03:59 AM
                             [**2184-7-29**]  09:06 AM
                             [**2184-7-30**]  04:00 AM
                             [**2184-7-30**]  04:09 AM
                             [**2184-7-30**]  03:30 PM
                             [**2184-7-31**]  03:21 AM
   WBC
   11.6
   10.9
   10.6
   11.0
   Hct
   36.2
   33.5
   32.6
   32.2
   32.0
   Plt
   [**Telephone/Fax (3) 7335**]98
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   TropT
   4.12
   3.86
   2.80
   TCO2
   24
   31
   Glucose
   117
   117
   119
   123
   145
   119
   Other labs: PT / PTT / INR:14.9/50.0/1.3, CK / CKMB /
   Troponin-T:105/9/2.80, ALT / AST:190/59, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:42/, Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:525
   IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 65 yo Italian-speaking male with HTN who presents several
   days out from likely STEMI now s/p cath showing 3VD with chronic RCA
   occlusion and TTE showing LV dysfunction, 4+MR, 3+TR and significant
   AS, s/p IABP placement and planning for probable CABG +/- AVR/MVR/TVR.
   CORONARIES: Severe LM/3VD s/p probable inferior STEMI, planning for
   likely CABG. IABP placed for increased coronary perfusion and afterload
   reduction; will likely leave IABP for several days to facilitate
   recovery of the myocardium.
   -ASA 325, heparin gtt, atorvastatin 80 mg daily.
   -no plavix given likely surgery
   -CT [**Doctor First Name 91**] planning CABG/MVR/AVR for Monday morning.
   PUMP: 4+MR, 3+TR, mild/mod AS. He is tachycardic with SBPs in 100s but
   with low cardiac index. Cardiac index could be increased by either
   inotropy or afterload reduction.  Currently focusing on afterload
   reduction with diuresis, IABP and nipride gtt.
   -nipride drip steady at 1.3mcg/kg/min.
   -new systolic murmur likely due to improvement in MR, signaling that
   diuresis is helping.
   -aggressive diuresis yesterday appears to have improved CI.  Continues
   to have crackles on lung exam, goal today gentle diuresis with standing
   2x40mg IV Lasix
   -follow I/Os, UOP and mentation
   -follow hemodynamics with Swan
   RHYTHM: Sinus tachycardia appears to be necessary for compensation,
   though he is able to handle HR in high 80s.
   -cont  BB with goal HR 80-100.
   -monitor on tele
   Anemia: Hct drop 36 -> 32, likely related to hemolysis in setting of
   IABP. Continue to trend, and follow platelet count.
   - Elevated LDH and normal TBili, Hct has been steady for 48 hours, does
   not appear to have ongoing hemolysis.
   Transaminitis: Likely resolving shock liver in setting of cardiogenic
   shock given LFTs nearly normalized.
   -follow LFTs every few days.
   Renal failure: Acute vs Chronic. Last known cre from [**2181**] was 0.9.
   therefore, likely chronic. Cre stable from yesterday.
   - Continue to follow cre.
   HTN: SBPs in 100s since arrival to floor.
   -holding home antihypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2184-7-28**] 04:41 PM
   PA Catheter - [**2184-7-28**] 04:44 PM
   Prophylaxis:
   DVT: on Heparin
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Awaiting surgery Monday.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7297**].
   I would add the following remarks:
   History
   comfortable
   Good diuresis yesterday with neg 2.3 L
   PA 48/23 on IABP and Nipride 1.3
   Physical Examination
   good distal pulses
   apical MR murmur now more evident
   Medical Decision Making
   Continue diuresis.
   CT surgery Mon.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2184-7-31**] 10:46 ------

2184-08-01 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: None. Slept comfortably
   24 Hour Events:
   - Hemodynamically stable w/ maps and pads unchanged. IABP 1:1 w/ good
   augmentation and systolic/diastolic unloading
   - Anesthesia consent obtained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroprusside - 1.3 mcg/Kg/min
   Heparin
 1300 u/hr
   Other ICU medications:
   Furosemide (Lasix) - [**2184-7-31**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-1**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 97 (84 - 101) bpm
   BP: 115/58(88) {94/49(74) - 124/81(101)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.3 kg (admission): 70.5 kg
   Height: 62 Inch
    CVP: 7 (6 - 15)mmHg
   PAP: (44 mmHg) / (21 mmHg)
   CO/CI (Fick): (4.3 L/min) / (2.5 L/min/m2)
   Mixed Venous O2% Sat: 62 - 66
   Total In:
                                                                  2,228 mL
                                                                    425 mL
   PO:
                                                                    740 mL
   TF:
   IVF:
                                                                  1,488 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,050 mL
   Urine:
                                                                  2,750 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -522 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), III/VI systolic murmur
   loudest at apex.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Mild bilateral crackles at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Warm and well-perfused, IABP access site clean dry and
   intact.
   Neurologic: Alert and oriented x3.
   Labs / Radiology
   186 K/uL
   11.0 g/dL
   114 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.4 mEq/L
   19 mg/dL
   100 mEq/L
   136 mEq/L
   33.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2184-7-28**]  02:49 PM
                             [**2184-7-28**]  03:00 PM
                             [**2184-7-28**]  08:01 PM
                             [**2184-7-29**]  03:59 AM
                             [**2184-7-29**]  09:06 AM
                             [**2184-7-30**]  04:00 AM
                             [**2184-7-30**]  04:09 AM
                             [**2184-7-30**]  03:30 PM
                             [**2184-7-31**]  03:21 AM
                             [**2184-8-1**]  02:53 AM
   WBC
   11.6
   10.9
   10.6
   11.0
   12.2
   Hct
   36.2
   33.5
   32.6
   32.2
   32.0
   33.2
   Plt
   [**Telephone/Fax (3) 7335**]98
   186
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   0.8
   TropT
   4.12
   3.86
   2.80
   3.00
   2.49
   TCO2
   24
   31
   Glucose
   117
   117
   119
   123
   145
   119
   114
   Other labs: PT / PTT / INR:14.4/56.9/1.2, CK / CKMB /
   Troponin-T:67/9/2.49, ALT / AST:190/59, Alk Phos / T Bili:130/0.5,
   Amylase / Lipase:42/, Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:502
   IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 65 yo Italian-speaking male with HTN who presents several
   days out from likely STEMI now s/p cath showing 3VD with chronic RCA
   occlusion and TTE showing LV dysfunction, 4+MR, 3+TR and significant
   AS, s/p IABP placement and planning for probable CABG +/- AVR/MVR/TVR.
   CORONARIES: Severe LM/3VD s/p probable inferior STEMI, planning for
   likely CABG. IABP placed for increased coronary perfusion and afterload
   reduction; will likely leave IABP for several days to facilitate
   recovery of the myocardium.
   -ASA 325, heparin gtt, atorvastatin 80 mg daily.
   -no plavix given likely surgery
   -CT [**Doctor First Name 91**] planning CABG/MVR/AVR for Monday morning.
   PUMP: 4+MR, 3+TR, mild/mod AS. He is tachycardic with SBPs in 100s but
   with low cardiac index. Cardiac index could be increased by either
   inotropy or afterload reduction.  Currently focusing on afterload
   reduction with diuresis, IABP and nipride gtt.
   -nipride drip steady at 1.3mcg/kg/min. Serum thiocyanate level ordered
 sent to outside lab [**2184-7-31**]
   -new systolic murmur likely due to improvement in MR, signaling that
   diuresis is helping.
   -aggressive diuresis yesterday appears to have improved CI.  Continues
   to have crackles on lung exam, goal today gentle diuresis with standing
   2x40mg IV Lasix
   -follow I/Os, UOP and mentation. Goal negative 1 L today.
   -follow hemodynamics with Swan
   RHYTHM: Sinus tachycardia appears to be necessary for compensation,
   though he is able to handle HR in high 80s.
   -cont  BB with goal HR 80-100.
   -monitor on tele
   Leukocytosis:
   -WBC slightly increased today but no other signs of infection. Will add
   on differential to AM labs.
   -Nothing to suggest IABP infection, hemodynamics remain stable
   Anemia: Hct drop 36 -> 32> 33.3, likely related to hemolysis in setting
   of IABP. Continue to trend, and follow platelet count.
   - Elevated LDH and normal TBili, Hct has been steady for 48 hours, does
   not appear to have ongoing hemolysis.
   Transaminitis: Likely resolving shock liver in setting of cardiogenic
   shock given LFTs nearly normalized.
   Renal failure: Acute vs Chronic. Last known cr from [**2181**] was 0.9.
   therefore, likely chronic. Cre stable from yesterday.
   - Continue to follow creatinine.
   HTN: SBPs in 100s since arrival to floor.
   -holding home antihypertensives
   ICU Care
   FEN: Cardiac diet
   Replete IVF/lytes PRN
 goal of -1L though
   Glycemic Control:
   Lines:
   IABP line - [**2184-7-28**] 04:41 PM
   PA Catheter - [**2184-7-28**] 04:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to CT [**Doctor First Name 91**] tomorrow
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 659**].
   I would add the following remarks:
   History
   Continues diuresis while await surgery tomorrow.
   WBC slightly elevated at 12.   Afebrile.
   On IABP and nipride.
   Medical Decision Making
   Cardiac surgery Mon.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2184-8-1**] 09:17 ------